US07799806B2
Step 1: 4-(1-Oxo-1,3-dihydro-isoindol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 2-bromomethyl-benzoic acid methyl ester (1.50 g, 6.55 mmol, 1.0 equiv; [CAS RN 2417-73-4]) in methanol (12.5 mL) and triethylamine (1.10 mL) was added 4-amino-piperidine-1-carboxylic acid tert-butyl ester (1.38 g, 6.88 mmol, 1.05 equiv; commercially available) and the reaction stirred at rt overnight. The reaction mixture was poured on crashed ice, extracted with ethyl acetate, the combined organic phases washed with water and a sat. solution of NaCl, dried over MgSO4 and concentrated by evaporation under reduced pressure. The crude material was purified with silica column chromatography eluting with hexane/ethyl acetate (1:1) followed by crystallization from hexane/ethyl acetate to obtain 1.12 g (54%) of the title compound as white crystals. MS (ISP): 261.0 [M-tert-Bu+H]+.

reactant | 2-bromomethyl-benzoic acid methyl ester | 6.55 mmol, 1.50 g, 1.0 equiv | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
solvent | methanol | 12.5 mL | CO | CH4O
solvent | triethylamine | 1.10 mL | C(C)N(CC)CC | C6H15N
product | 4-(1-Oxo-1,3-dihydro-isoindol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | 1.12 g, 54% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C2=CC=CC=C2C1)=O | C18H24N2O3
